US06638965B2
(Z)-3-[1-(4-carboxymethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone
720 mg (1.3 mmol) of (Z)-3-[1-(4-ethoxycarbonylmethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone are dissolved in a mixture of 20 ml of methanol and 20 ml of dichloromethane. 4 ml of 1 N sodium hydroxide solution are added and the mixture is stirred for 18 hours at ambient temperature and for another 1 hour at 40° C. The reaction solution is evaporated down to half the volume and the pH is adjusted to 4-5 with 1 N hydrochloric acid. The precipitate formed is suction filtered, washed with water, a little isopropanol and ether.

reactant | (Z)-3-[1-(4-ethoxycarbonylmethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone | 1.3 mmol, 720 mg | C(C)OC(=O)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C31H27N3O5S
reactant | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (Z)-3-[1-(4-carboxymethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone | C(=O)(O)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C29H23N3O5S
